US06391520B1
10 mmol of 1,3,5-adamantanetriol, 10 mmol of triethylamine, and 40 ml of tetrahydrofuran were mixed, and 10 mmol of methacrylic acid chloride was added dropwise to the mixture for about 30 minutes. After completion of the dropwise addition, the mixture was stirred at room temperature for 24 hours. After the reaction had been completed, to the reaction mixture was added water, followed by purification by column chromatography to give 1-methacryloyloxy-3,5-dihydroxyadamantane.

reactant | 1,3,5-adamantanetriol | 10 mmol | C12(CC3(CC(CC(C1)C3)(C2)O)O)O | C10H16O3
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | methacrylic acid chloride | 10 mmol | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | water | O | H2O
product | 1-methacryloyloxy-3,5-dihydroxyadamantane | C(C(=C)C)(=O)OC12CC3(CC(CC(C1)C3)(C2)O)O | C14H20O4
